datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])([H:9])([H:10])[H:11],21.715
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15](=[S:16])[H:24])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:20])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15](=[S:16])[H:24])([H:17])([H:18])[H:19],100.458
[C:8]([C:9](=[S:10])[H:13])([H:11])[H:12].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([C:9](=[S:10])[H:13])([H:11])[H:12].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],27.6144
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])[H:4],49.7896
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[S:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:9])[H:4].[C:7](=[S:8])[H:10],123.302
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17])[H:16]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([S:8][H:16])([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17],117.947
[N:3]([H:4])[H:5].[O:0]([H:1])[H:2]>>[H:1][N:3]([H:4])[H:5].[O:0][H:2],70.483664
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30](=[C:31]([H:37])[H:38])[H:36])[H:35])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:32])[H:33])[H:34])([C:30](=[C:31]([H:37])[H:38])[H:36])[H:35])[H:15])([H:13])[H:14],67.5298
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:7])[H:6],41.2124
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6][C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6](=[C:5]([H:8])[H:9])[C:7]([H:10])([H:11])[H:12],-24.6856
[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])[H:8].[H:14]>>[C:0]([c:1]1[c:2]([H:9])[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]1[H:13])([H:7])([H:8])[H:14],-0.184096
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]([S:10][H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:11])[H:4].[S:9][S:10][H:12],0.4184
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8](=[C:9]([H:11])[H:12])[H:10],14.2256
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([S:10][H:16])[C:11](=[S:12])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:13])([H:14])[H:15])([S:10][H:16])[C:11](=[S:12])[H:17],128.03
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7](=[O:8])[H:9]>>[C-:7]#[O+:8].[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:9],0.0
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[O:7][O:8][H:9]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:7][O:8][H:9],96.232
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[C:20]([C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24])[H:10])([H:8])[H:9],57.6137
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:12])[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24])[H:11],18.4514
